US09260429B2
(A) 1-(2-(6-methylpyridin-3-yl)ethyl)-1-p-tolylhydrazine
The title compound was prepared by General Method 1. Triethylamine (13.0 mL, 94.5 mmol) was added dropwise to p-tolylhydrazine hydrochloride (5.0 g, 31.5 mmol) over a period of 5-min. The reaction mixture was stirred for additional 10 min. 5-(2-bromoethyl)-2-methylpyridine (6.3 g, 31.5 mmol) was added dropwise at 25° C. over a period of 10-15 min. The reaction mixture was stirred at RT for 1 h and the subsequently heated at 90° C. for 2-3 h at which point the reaction was found complete by TLC and LC-MS. Reaction mixture was concentrated under reduced pressure and diluted with water (50 mL) and extracted with ethyl acetate (100 mL×2). The organic layer was separated, dried (Na2SO4) and concentrated to obtain crude product as dark brown oil (16.7 g). Purification of crude product by column chromatography (silica gel, 100-200 mesh, eluent: 0-40% ethyl acetate-Hexane) furnished 1.92 g of pure product as brown liquid. Yield: 25%.

reactant | Triethylamine | 94.5 mmol, 13.0 mL | C(C)N(CC)CC | C6H15N
reactant | p-tolylhydrazine hydrochloride | 31.5 mmol, 5.0 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | 5-(2-bromoethyl)-2-methylpyridine | 31.5 mmol, 6.3 g | BrCCC=1C=CC(=NC1)C | C8H10BrN
product | 1-(2-(6-methylpyridin-3-yl)ethyl)-1-p-tolylhydrazine | CC1=CC=C(C=N1)CCN(N)C1=CC=C(C=C1)C | C15H19N3
